US09340498B2
Preparation of N,N-dimethyl-N′-ethyl-1,4-phenylenediamine
A mixture of LiAlH4 (2.87 g, 71.8 mmol) and N-acetyl-N′,N′-dimethyl-1,4-phenylenediamine (from above) (12.8 g, 17.8 mol) was placed in a soxlet tube and placed in a soxlet extractor with anhydrous THF (200 mL). The mixture extracted with refluxing THF for 50 hrs. The solution was cooled to room temperature and then added wet THF at 0° C. The resultant suspension was filtered and the filtrate was evaporated under high vacuum to obtain a dark oil. The filter cake was extracted with CHCl3 (2×50 mL) by stirring at room temperature. This suspension was filtered and the filtrate dried over NaSO4. The solvent was evaporated to a dark oil which was combined with the other dark oil obtained from the reaction mixture. Distillation afforded the title compound, N,N-dimethyl-N′-ethyl-1,4-phenylenediamine as a yellow oil which darkened upon standing (7.84 g, 67%); b.p. 120-150° C./0.30 mmHg 1H-NMR (d6-acetone): δ(ppm) 1.18 (m, 3H, CH3); 2.80, 2.78 (2×s, 2×3H, 2×NCH3); 3.05 (m, 2H, CH2); 6.60-6.42 (m, 2H, ArH); 6.78-6.60 (m, 2H, ArH).

reactant | LiAlH4 | 71.8 mmol, 2.87 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-acetyl-N′,N′-dimethyl-1,4-phenylenediamine | 17.8 mol, 12.8 g | C(C)(=O)NC1=CC=C(C=C1)N(C)C | C10H14N2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N,N-dimethyl-N′-ethyl-1,4-phenylenediamine | CN(C1=CC=C(C=C1)NCC)C | C10H16N2
